US08183275B2
To a solution of 2-[2-(4-bromophenyl)ethyl]-4-(2,2-dimethylbutyl)-1H-imidazole (33.4 g, 100 mmol) in methlyene chloride (500 mL) was added trityl chloride (41.8 g, 150 mmol) and triethylamine (42 mL, 300 mmol). The reaction was stirred for 2 h, then washed with water, dried over sodium sulfate and concentrated to give a residue. The residue was purified by silica gel column chromatography eluting with ethyl acetate/hexanes (2:8). The chromatography was repeated eluting with methylene chloride/2-propanol 99.8:0.02) and then methlyene chloride/methanol (95:5) to provide 2-[2-(4-bromophenyl)ethyl]-4-(2,2-dimethylbutyl)-1-trityl-1H-imidazole.

reactant | 2-[2-(4-bromophenyl)ethyl]-4-(2,2-dimethylbutyl)-1H-imidazole | 100 mmol, 33.4 g | BrC1=CC=C(C=C1)CCC=1NC=C(N1)CC(CC)(C)C | C17H23BrN2
reactant | trityl chloride | 150 mmol, 41.8 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | triethylamine | 300 mmol, 42 mL | C(C)N(CC)CC | C6H15N
solvent | methlyene chloride | 500 mL | C(Cl)Cl | CH2Cl2
product | 2-[2-(4-bromophenyl)ethyl]-4-(2,2-dimethylbutyl)-1-trityl-1H-imidazole | BrC1=CC=C(C=C1)CCC=1N(C=C(N1)CC(CC)(C)C)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C36H37BrN2
